US06809108B1
Synthesis of ethyl 3-{(2-aminoacetyl)amino}propionate monohydrochloride
2.0 Grams of ethyl 3-(2-{(tert-butoxycarbonyl)amino}acetylamino)propionate were dissolved in 30 ml of 10% hydrochloric acid-methanol and stirred for 15 hours at room temperature. Upon distilling the reaction liquid off under reduced pressure, 1.52 g of the title compound was obtained.

reactant | ethyl 3-(2-{(tert-butoxycarbonyl)amino}acetylamino)propionate | C(C)(C)(C)OC(=O)NCC(=O)NCCC(=O)OCC | C12H22N2O5
reactant | hydrochloric acid methanol | 30 ml | Cl.CO
product | ethyl 3-{(2-aminoacetyl)amino}propionate monohydrochloride | 1.52 g | Cl.NCC(=O)NCCC(=O)OCC | InChI=1S/C7H14N2O3.ClH/c1-2-12-7(11)3-4-9-6(10)5-8;/h2-5,8H2,1H3,(H,9,10);1H
